US05238962
7.7 g (0.05 mol) of methyl 4-fluorobenzoate and 10 ml (0.15 mol) of ethylene diamine are heated to 130° (bath temperature) for 2 hours. The mixture is poured on to ice/hydrochloric acid and extracted with ethyl acetate in order to remove the neutral constituents. The aqueous phase is made alkaline with sodium hydroxide solution and extracted several times with chloroform. After drying and concentrating the chloroform extracts, the residue (7.6 g) is recrystallized from ethyl acetate/hexane, the being obtained N-(2-aminoethyl)-4-fluorobenzamide, m.p. 57°-60°. The hydrochloride melts at 214°-216°.

reactant | methyl 4-fluorobenzoate | 0.05 mol, 7.7 g | FC1=CC=C(C(=O)OC)C=C1 | C8H7FO2
reactant | ethylene diamine | 0.15 mol, 10 ml | C(CN)N | C2H8N2
product | N-(2-aminoethyl)-4-fluorobenzamide | NCCNC(C1=CC=C(C=C1)F)=O | C9H11FN2O
